US06346633B1
Using an analogous procedure to that described in Example 5, 3-(2,5-dimethyl-1,4-benzoquinonyl)-3-methylbutyric acid was reacted with 4-[bis(2-chloroethyl)amino]phenol to give 4-[bis(2-chloroethyl)amino]phenyl 3-(2,5-dimethyl-1,4-benzoquinonyl)-3-methylbutyrate as a solid in 9% yield; NMR Spectrun: (CDCl3) 1.52 (s, 6H), 1.98 (m, 3H), 2.16 (s, 3H), 3.2 (s, 2H), 3.55-3.73 (m, 8H), 6.42 (m, 1 H), 6.6-6.9 (m, 4H); Mass Spectrum: (M+H+) 452.

reactant | 3-(2,5-dimethyl-1,4-benzoquinonyl)-3-methylbutyric acid | CC=1C(C=C(C(C1C(CC(=O)O)(C)C)=O)C)=O | C13H16O4
reactant | 4-[bis(2-chloroethyl)amino]phenol | ClCCN(C1=CC=C(C=C1)O)CCCl | C10H13Cl2NO
product | 4-[bis(2-chloroethyl)amino]phenyl 3-(2,5-dimethyl-1,4-benzoquinonyl)-3-methylbutyrate | 9% yield | CC=1C(C=C(C(C1C(CC(=O)OC1=CC=C(C=C1)N(CCCl)CCCl)(C)C)=O)C)=O | C23H27Cl2NO4
